US05358948
1-(2-Methoxy-5-nitrophenyl)piperazine
Potassium nitrate (6.06 g) was added portionwise during 2 h to a solution of 1-(2-methoxyphenyl)piperazine ( 10.0 g) in sulphuric acid (50 ml; 95%) at room temperature. The resulting brown solution was stirred at room temperature for 30 min and added cautiously to ice (300 ml). The solution was basified with aqueous sodium hydroxide (5N) and extracted with ethyl acetate (2×400 ml). The dried extract was evaporated and the residue was purified on a column of silica (190:10:1) to give the title compound as a yellow solid (9.4 g). m.p. 102°-104° C.

reactant | Potassium nitrate | 6.06 g | [N+](=O)([O-])[O-].[K+]
reactant | 1-(2-methoxyphenyl)piperazine | 10.0 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | sulphuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2-Methoxy-5-nitrophenyl)piperazine | 9.4 g | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
